US04956359
1-[3-(4-Fluorophenoxy)-1-azetidinylcarbonyl]-4-(phenylmethyl)piperazine
A stirred solution of 6.9 g (0.03 mole) of 3-(4-fluorophenoxy)-1-azetidinecarbonyl chloride in 60 ml of methylene chloride was treated with 10.8 g (0.06 mole) of 1-benzylpiperazine, added dropwise. After stirring for 18 hr, the reaction mixture was diluted with 200 ml of water and stirred for an additional 1 hr. The methylene chloride portion was separated and the aqueous portion was extracted with 2×25 ml of methylene chloride. The methylene chloride portions were combined, dried and concentrated in vacuo, yielding 12 g of oil residue. This oil solidified when triturated with ligroin and was recrystallized from benzene/ligroin to yield 10.1 (91%) of tan crystals. A 500 mg portion was recrystallized from benzene/ligroin to yield 250 mg of fine white crystals, m.p. 109°-111° C.

reactant | 3-(4-fluorophenoxy)-1-azetidinecarbonyl chloride | 0.03 mole, 6.9 g | FC1=CC=C(OC2CN(C2)C(=O)Cl)C=C1 | C10H9ClFNO2
reactant | 1-benzylpiperazine | 0.06 mole, 10.8 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | 1-[3-(4-Fluorophenoxy)-1-azetidinylcarbonyl]-4-(phenylmethyl)piperazine | 12 g | FC1=CC=C(OC2CN(C2)C(=O)N2CCN(CC2)CC2=CC=CC=C2)C=C1 | C21H24FN3O2
